US09315467B2
Part A. A solution of methyl 4-acetylbenzoate (1.00 g, 5.61 mmol) and dimethylformamide dimethyl acetal (746 μL, 5.61 mmol) in ethanol (5 mL) is heated to reflux for 12 h. The solution is cooled and evaporated, and the residue is separated by column chromatography to afford the product as a mixture of methyl and ethyl esters of 4-(3-dimethylamino-acryloyl)benzoic acid (679 mg). A portion of this material (121 mg) is dissolved in ethanol (5 mL) and treated with 4-isopropyl-benzamidine (81 mg). The solution is heated to reflux for 12 h., cooled, filtered through celite, and evaporated. The residue is separated by column chromatography (silica gel, 1:4 ethyl acetate-hexane) to afford the product, ethyl 4-[2-(4-isopropyl-phenyl)-pyrimidin-4-yl]-benzoate.

reactant | methyl 4-acetylbenzoate | 5.61 mmol, 1.00 g | C(C)(=O)C1=CC=C(C(=O)OC)C=C1 | C10H10O3
reactant | dimethylformamide dimethyl acetal | 5.61 mmol, 746 μL | COC(N(C)C)OC | C5H13NO2
reactant | 4-(3-dimethylamino-acryloyl)benzoic acid | 679 mg | CN(C=CC(=O)C1=CC=C(C(=O)O)C=C1)C | C12H13NO3
reactant | 4-isopropyl-benzamidine | 81 mg | C(C)(C)C1=CC=C(C(=N)N)C=C1 | C10H14N2
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | ethyl 4-[2-(4-isopropyl-phenyl)-pyrimidin-4-yl]-benzoate | C(C)(C)C1=CC=C(C=C1)C1=NC=CC(=N1)C1=CC=C(C(=O)OCC)C=C1 | C22H22N2O2
